US08603947B2
Step 8: Synthesis of 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylsulfinyl-4-pentafluorethylbenzoate
280 mg (90% by weight; 0.599 mmol) of 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylthio-4-pentafluoroethylbenzoate were introduced into 20 ml of dichloromethane and admixed with 134 mg (77% by weight; 0.599 mmol) of meta-chloroperbenzoic acid. The mixture was stirred at RT until monitoring of the reaction by thin-layer chromatography indicated complete conversion. For working up, the contents were washed once with 10% strength aqueous sodium hydrogensulfite solution, then twice with saturated aqueous sodium hydrogencarbonate solution. Finally, the organic phase was freed from the solvent. As the residue, 250 mg of product with a purity of 95% by weight were recovered.

reactant | 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylthio-4-pentafluoroethylbenzoate | 0.599 mmol, 280 mg | CC1=C(C(=O)OC=2C3CCC(C(C2)=O)C3)C=CC(=C1SC)C(C(F)(F)F)(F)F | C19H17F5O3S
reactant | meta-chloroperbenzoic acid | 0.599 mmol, 134 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylsulfinyl-4-pentafluorethylbenzoate | CC1=C(C(=O)OC=2C3CCC(C(C2)=O)C3)C=CC(=C1S(=O)C)C(C(F)(F)F)(F)F | C19H17F5O4S
